US08686048B2
Intermediate 19: 3,5-difluoro-3′-propoxybiphenyl-4-amine
The title compound (0.3 g) was prepared from 4-Bromo-2,6-difluoro aniline (0.5 g, 2.4 mmol) and 3-propoxyphenylboronic acid (0.337 g, 3.1 mmol) as a red liquid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.30-7.24 (m, 3H), 7.18-7.10 (m, 2H), 6.86-6.80 (m, 1H), 5.31 (s, 2H), 3.97 (t, J 6.5, 2H), 1.75-1.65 (m, 2H), 0.98 (t, J 7.4, 3H).

reactant | 4-Bromo-2,6-difluoro aniline | 2.4 mmol, 0.5 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 3-propoxyphenylboronic acid | 3.1 mmol, 0.337 g | C(CC)OC=1C=C(C=CC1)B(O)O | C9H13BO3
product | 3,5-difluoro-3′-propoxybiphenyl-4-amine | 0.3 g | FC=1C=C(C=C(C1N)F)C1=CC(=CC=C1)OCCC | C15H15F2NO
